US08012956B2
Methyl 5-amino-4-(aminocarbonyl)-2-methylbenzoate (108 mg, 0.52 mmol) was dissolved in methanol (1.5 mL) and was treated with 1 M sodium hydroxide (1.5 mL, 1.5 mmol) for 1 h. The reaction mixture was concentrated to afford an aqueous residue that was acidified with 1N hydrochloric acid to pH ˜3. The precipitate was collected by filtration, washed with water, and dried in vacuo to afford 5-amino-4-carbamoyl-2-methylbenzoic acid (60.8 mg, 0.31 mmol, 61% yield). 1H NMR (400 MHz, d6-DMSO): δ 12.95 (br s, 1H), 7.99 (br s, 1H), 7.52 (s, 1H), 7.42 (br s, 1H), 7.35 (s, 1H), 4.75 (br s, 2H), 2.33 (s, 3H).

reactant | Methyl 5-amino-4-(aminocarbonyl)-2-methylbenzoate | 0.52 mmol, 108 mg | NC=1C(=CC(=C(C(=O)OC)C1)C)C(=O)N | C10H12N2O3
reactant | sodium hydroxide | 1.5 mmol, 1 M, 1.5 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 1.5 mL | CO | CH4O
product | 5-amino-4-carbamoyl-2-methylbenzoic acid | 0.31 mmol, 60.8 mg, 61% yield | NC=1C(=CC(=C(C(=O)O)C1)C)C(N)=O | C9H10N2O3
